US08710069B2
To a suspension of morphine (0.5 g, 1.75 mmol) in saturated NaHCO3 solution (25 mL), acetic anhydride (0.5 mL, 5.25 mmol) was added dropwise and allowed to stir for 3 hours. Progress of the reaction was monitored by TLC and after the completion; reaction mixture was extracted 6 times with dichloromethane. Dichloromethane layers were combined, dried over anhydrous sodium sulfate, filtered and concentrated under vacuum to get solid 3-acetylmorphine. 0.34 g (59% yield). GC-MS, 1H and 13C NMR confirmed the structure.

reactant | morphine | 1.75 mmol, 0.5 g | C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5 | C17H19NO3
reactant | acetic anhydride | 5.25 mmol, 0.5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
product | 3-acetylmorphine | 59% yield | C(C)(=O)C1(CC=C2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2=C1O5)CCN3C)O)O | C19H23NO4
